US08486967B2
[1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-yl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
(4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride (115.9 mg, 0.3 mmol) was dissolved in N-methylpyrrolidone (3 mL). N,N-diisopropylethylamine (165 1, 0.96 mmol) and 4-chloro-2-methylpyrimidine (44.7 mg, 0.33 mmol) were added at room temperature under nitrogen and stirring. The reaction was heated in a microwave oven to 200° C. for 30 minutes. Water was added and the reaction was extracted twice with diethyl ether. The combined organic layers were washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient from EtOAc to EtOAc/EtOH 9:1 (v/v) as eluent. The title compound was obtained as a light yellow viscous oil (34 mg, 28%).

reactant | (4-Phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-piperidin-4-yl-amine dihydrochloride | 0.3 mmol, 115.9 mg | Cl.Cl.C1(=CC=CC=C1)C1CCCC2=C1N=C(S2)NC2CCNCC2
reactant | N,N-diisopropylethylamine | 0.96 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-2-methylpyrimidine | 0.33 mmol, 44.7 mg | ClC1=NC(=NC=C1)C | C5H5ClN2
reactant | Water | O | H2O
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | [1-(2-Methyl-pyrimidin-4-yl)-piperidin-4-yl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | CC1=NC=CC(=N1)N1CCC(CC1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C23H27N5S
